US05880130
Using an analogous reaction procedure to that described in Example 6, 6-chloro-4-(3'-chloro-4'-fluoroanilino)pyrimidine (0.258 g) was reacted with 4-(2-methoxyethoxy)aniline (0.206 g). The reaction product was chromatographed on silica and precipitated from a mixture of methylene chloride and hexane to give 4-(3'-chloro-4'-fluoroanilino)-6-[4'-(2-methoxyethoxy)anilino]pyrimidine in 49% yield, m.p. 208°-210° C.;

reactant | 6-chloro-4-(3'-chloro-4'-fluoroanilino)pyrimidine | 0.258 g | ClC1=CC(=NC=N1)NC1=CC(=C(C=C1)F)Cl | C10H6Cl2FN3
reactant | 4-(2-methoxyethoxy)aniline | 0.206 g | COCCOC1=CC=C(N)C=C1 | C9H13NO2
product | 4-(3'-chloro-4'-fluoroanilino)-6-[4'-(2-methoxyethoxy)anilino]pyrimidine | 49% yield | ClC=1C=C(NC2=NC=NC(=C2)NC2=CC=C(C=C2)OCCOC)C=CC1F | C19H18ClFN4O2
